US06949542B2
7-Cyclopropylmethoxy-4-(3-pyridin-3-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {5-cyclopropylmethoxy-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester (Example M176) (275 mg, 0.48 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (170 mg, 78%).

reactant | {5-cyclopropylmethoxy-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert-butyl ester | 0.48 mmol, 275 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC1CC1)C(F)(F)F)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C30H30F3N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Cyclopropylmethoxy-4-(3-pyridin-3-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C1(CC1)COC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC=CC2)=O)C=C1C(F)(F)F | C25H20F3N3O2
